* Z:\home\magyar-gabor-balazs\KiCAD\akkutolto\LTSpice\akkutolto.asc
R1 stab_cu N001 2
C1 stab_cu 0 1µ
C2 stab_vol 0 1µ
C3 in 0 1µ
V1 in 0 20
V2 bat_vol 0 PULSE(0 14 0 30 0 100)
R2 bat_vol stab_vol 10
XU1 stab_cu N001 in LT317A
XU2 N002 stab_vol stab_cu LT317A
R3 stab_vol N002 0.9k
R4 N002 0 9.1k
C4 N002 0 1µ
D1 stab_vol in 1N4148
D2 N002 stab_vol 1N4148
.model D D
.lib C:\users\magyar-gabor-balazs\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 40 0 1m
.lib LTC.lib
.backanno
.end
